US07402595B2
6-chloro-2-(4-methanesulfonylbenzyl)-3-pentanoyl-4-phenyl-2H-isoquinolin-1-one
In the same manner as in Example 311, the title compound was synthesized using 6-chloro-3-(1-hydroxypentyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one. Crystals (methanol-diisopropyl ether).

reactant | 6-chloro-3-(1-hydroxypentyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CCCC)O)C1=CC=CC=C1 | C28H28ClNO4S
reactant | methanol diisopropyl ether | CO.C(C)(C)OC(C)C
product | 6-chloro-2-(4-methanesulfonylbenzyl)-3-pentanoyl-4-phenyl-2H-isoquinolin-1-one | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CCCC)=O)C1=CC=CC=C1 | C28H26ClNO4S
